datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].[CH:10]1=[CH:11][CH:12]=[CH:13][S:14]1>>C[C:22](=[CH:21][CH:20]([CH:10]1[CH:11]=[CH:12][CH:13]=[S+:14]1)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[CH:10]=[N+:11]([O-:12])[O-:62].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[CH:10]([N+:11](=[O:12])[O-:62])[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28.[CH:10]1=[C:11]([O-:12])[NH:82][C:73](=[O:74])[NH:82][C:61]1=[O:62]>>C[CH:20]([CH:10]1[C:11](=[O:12])[NH:82][C:73](=[O:74])[NH:82][C:61]1=[O:62])[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10,11=10,20;12=11,12"
CC[O:82][C:71]([C-:10](C1CCCCC1)[C:61](=[O:62])[O:112]CC)=[O:72].[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:82][C:71]([C:10](C1CCCCC1)([CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20
"CC(C)(C)C[CH:11]([H:10])[CH2:62][Sn:63](C)(C)C.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC(C)(C)C[CH+:11][CH2:62][Sn:63](C)(C)C.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20"
"C1=CC=C([C-:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])C=C1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>[O-][N+]1=[C:33]2[C:32](=NO1)[C:21](=[N+:22]([O-])[O-:23])[CH:20]([C:10](C1=CC=CC=C1)([C:61](C1=CC=CC=C1)=[O:62])[C:71](C1=CC=CC=C1)=[O:72])[C:41]1=[N+:42]([O-])O[N:35]=[C:34]21 10=20;20,21=21,22;22,23=23"
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.[C-:10]([C:61]#[N:62])([C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1)[C:91]#[N:92]>>COC1=CC=C([CH:20]([C:10]([C:61]#[N:62])([C:71]2=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]2)[C:91]#[N:92])[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[CH:10]=[C:11]([O-:12])[O:82]1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]1=[O:62])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:63]([NH:12][C:11](C1=CCCCC1)=[CH2:10])=[O:64]>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](C2=CCCCC2)=[NH+:12][C:63](C)=[O:64])[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C.[CH2:10]=[CH:11][CH:62]=[CH2:63]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][CH+:11][CH:62]=[CH2:63])[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
C=CC[NH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C=CC[NH2+:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10=20
"C1CC[N:12]([C:11]2=[CH:10]CC[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC(C)(C)[O:33][C:22](=[CH:21][CH2:20][CH:10]1CC[C:63]2=[C:62]([C:11]1=[N+:12]1CCCC1)[CH:73]=[CH:74][CH:65]=[CH:64]2)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CCCC[CH:11]=[CH2:10]>>CCCC[CH+:11][CH2:10][C:20]([O-:21])=[N:31]C1=CC=CC=C1 10,11=10,20;20,21=21"
"CC(C)[Si:11](C(C)C)(C(C)C)[H:10].C[N+:21](C)=[CH2:20]>>CC(C)[Si+:11](C(C)C)C(C)C.C[N:21](C)[CH2:20][H:10] 10,11=10,20;20,21=21"
"CC[O:12][CH:11]=[CH2:10].CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32]>>CC[O+:12]=[CH:11][CH2:10][CH:20]([C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])[C:31](=[O:32])[O:33]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.C[N:61](C)[NH2:10]>>C[N:61](C)[NH2+:10][CH2:20][CH:21]=[C:22](C1=CC=CC=C1)[O-:23] 10=20;20,21=21,22;22,23=23"
